US06248738B1
A solution of 7-benzyloxyisoquinoline (International Patent Application publication no. WO 94/20459) (0.50 g, 2.13 mmol) in CH2Cl2 (20 mL) was stirred with 3-chloroperbenzoic acid (mCPBA) (1.1 g, 3.19 mmol) at room temperature for 2.5 h. The mixture was diluted with CH2Cl2, and then washed with sodium dithionite (1 M), potassium carbonate (1 M) and brine. The organic layer was dried over MgSO4 and evaporated in vacuo to leave 7-benzyloxyisoquinoline N-oxide (0.521 g, 2.09 mmol) as a cream-coloured powder.

reactant | 7-benzyloxyisoquinoline | 2.13 mmol, 0.50 g | C(C1=CC=CC=C1)OC1=CC=C2C=CN=CC2=C1 | C16H13NO
reactant | 3-chloroperbenzoic acid | 3.19 mmol, 1.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-benzyloxyisoquinoline N-oxide | 2.09 mmol, 0.521 g | C(C1=CC=CC=C1)OC1=CC=C2C=C[N+](=CC2=C1)[O-] | C16H13NO2
